*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/2.70e-04[uF]/630[V]
* Murata P/N :GCM21A5C2J271GX01
* Property : C = 2.70e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J271GX01 Port1 Port2
C01 Port1 N01 2.70e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 4.82e-11
R03 N02 N03 5.28e-03
C04 N03 N04 6.01e-09
R04 N03 N04 5.93e+02
L05 N04 N05 5.93e-11
R05 N04 N05 7.03e-02
C06 N05 N06 9.97e-08
L06 N05 N06 3.48e-11
R06 N05 N06 1.74e-02
C07 N06 N07 1.44e-09
L07 N06 N07 1.75e-11
R07 N06 N07 8.84e-01
C08 N07 N08 2.63e-10
L08 N07 N08 3.62e-11
R08 N07 N08 1.91e+00
C09 N08 N09 1.05e-10
L09 N08 N09 2.43e-11
R09 N08 N09 7.41e-01
C10 N09 Port2 8.41e-13
L10 N09 Port2 4.00e-10
R10 N09 Port2 2.14e+02
.ENDS GCM21A5C2J271GX01
